US07279481B2
N-(2-(Methoxy)-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)methanesulfonamide dihydrochloride (E132)
The title compound was prepared in 72% yield according to the general procedure for the preparation of amides (Method B) starting from 2-(methoxy)-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}aniline and methanesulfonyl chloride.

reactant | 2-(methoxy)-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}aniline | COC1=C(N)C=CC=C1CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C | C23H28N4O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N-(2-(Methoxy)-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)methanesulfonamide dihydrochloride | 72% yield | Cl.Cl.COC1=C(C=CC=C1CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C)NS(=O)(=O)C | InChI=1S/C24H30N4O3S.2ClH/c1-18-10-11-20-21(25-18)7-5-9-23(20)28-16-14-27(15-17-28)13-12-19-6-4-8-22(24(19)31-2)26-32(3,29)30;;/h4-11,26H,12-17H2,1-3H3;2*1H
